US05523299
5-(6-Chloro-benzo[b]pyran-8-yl)-2-(1-piperidinylmethyl)-1H-pyrrole hydrochloride (E17)
This compound was prepared by a method analogous to that used to prepare example 1, but using 2-(6-chloro-benzo[b]pyran-8-yl)-1H-pyrrole (prepared according to the method of Kruse et at., [Heterocycles, 26,3141, 1987] from the corresponding acid chloride) in place of 2-(3,5-dibromo-2-methoxyphenyl)-1H-pyrrole.

reactant | 2-(6-chloro-benzo[b]pyran-8-yl)-1H-pyrrole | ClC1=CC=2C(OC=CC2)C(=C1)C=1NC=CC1 | C13H10ClNO
reactant | 2-(3,5-dibromo-2-methoxyphenyl)-1H-pyrrole | BrC=1C(=C(C=C(C1)Br)C=1NC=CC1)OC | C11H9Br2NO
product | 5-(6-Chloro-benzo[b]pyran-8-yl)-2-(1-piperidinylmethyl)-1H-pyrrole hydrochloride | Cl.ClC1=CC=2C(OC=CC2)C(=C1)C1=CC=C(N1)CN1CCCCC1 | InChI=1S/C19H21ClN2O.ClH/c20-15-11-14-5-4-10-23-19(14)17(12-15)18-7-6-16(21-18)13-22-8-2-1-3-9-22;/h4-7,10-12,19,21H,1-3,8-9,13H2;1H
